US06486142B2
Step 1 1-(3-trifluoromethylbenzyl)-1H-benzotriazole
To a solution of benzotriazole (3 g) in DMF (38 mL) at r.t. was added a solution of 10N NaOH (2.75 mL). After stirring for 25 min., 3-trifluoromethylbenzyl bromide (4.39 mL) was added. The mixture was further stirred for 30 min., diluted with H2O, and extracted with EtOAc. The EtOAc extract was washed brine (2×), water, brine, dried (MgSO4) and concentrated. The residue was stirred in diethyl ether/hexane to afford 3.96 g of the title compound as a white solid.

reactant | benzotriazole | 3 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | NaOH | 10N, 2.75 mL | [OH-].[Na+]
reactant | 3-trifluoromethylbenzyl bromide | 4.39 mL | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
solvent | DMF | 38 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-(3-trifluoromethylbenzyl)-1H-benzotriazole | 3.96 g | FC(C=1C=C(CN2N=NC3=C2C=CC=C3)C=CC1)(F)F | C14H10F3N3
